US07339058B2
Preparation of 2-(2,2-Difluoroethoxy)-N-(5,8-dimethoxy[1,2,4]-triazolo[1,5-c]pyrimidin-2-yl)-6-(trifluoromethyl)benzenesulfonamide
A solution of methyl sulfide (0.34 g, 0.0055 mol) in acetonitrile (40 mL) was cooled to −25° C. To the cold solution was added a cold, freshly prepared 17 wt % solution of chlorine in acetonitrile (2.4 g, 0.0057 mol) over several minutes. While still cold, 1.1 g of 2-amino-5,8-dimethoxy[1,2,4]triazolo[1,5-c]pyrimidine (1.1 g, 0.0056 mol) and 3-picoline (0.95 g, 0.010 mol) were added. The mixture was allowed to warm to 8° C. 3-Picoline (48 g, 0.52 mol), 2-amino-5,8-dimethoxy[1,2,4]triazolo[1,5-c]pyrimidine (18.4 g, 0.094 mol), and 2-(2,2-difluoroethoxy)-6-(trifluoromethyl)benzenesulfonyl chloride (32.5 g, 0.10 mol) were added in order to the reactor. The mixture was stirred and heated at ˜40° C. for 24 hours, then at room temperature for 48 hours. The reaction slurry was converted into a solution by the addition of acetonitrile (600 mL) and water (100 mL). The solution was assayed for product by HPLC and determined to contain 42 g (86% yield, in situ, from sulfonyl chloride).

reactant | methyl sulfide | 0.0055 mol, 0.34 g | CSC | C2H6S
reactant | chlorine | ClCl | Cl2
reactant | 2-amino-5,8-dimethoxy[1,2,4]triazolo[1,5-c]pyrimidine | 0.0056 mol, 1.1 g | NC1=NN2C(=NC=C(C2=N1)OC)OC | C7H9N5O2
reactant | 3-picoline | 0.010 mol, 0.95 g | N1=CC(=CC=C1)C | C6H7N
reactant | 3-Picoline | 0.52 mol, 48 g | N1=CC(=CC=C1)C | C6H7N
reactant | 2-amino-5,8-dimethoxy[1,2,4]triazolo[1,5-c]pyrimidine | 0.094 mol, 18.4 g | NC1=NN2C(=NC=C(C2=N1)OC)OC | C7H9N5O2
reactant | 2-(2,2-difluoroethoxy)-6-(trifluoromethyl)benzenesulfonyl chloride | 0.10 mol, 32.5 g | FC(COC1=C(C(=CC=C1)C(F)(F)F)S(=O)(=O)Cl)F | C9H6ClF5O3S
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
solvent | acetonitrile | 600 mL | C(C)#N | C2H3N
solvent | acetonitrile | 0.0057 mol, 2.4 g | C(C)#N | C2H3N
solvent | water | 100 mL | O | H2O
product | 2-(2,2-Difluoroethoxy)-N-(5,8-dimethoxy[1,2,4]-triazolo[1,5-c]pyrimidin-2-yl)-6-(trifluoromethyl)benzenesulfonamide | 86% yield | FC(COC1=C(C(=CC=C1)C(F)(F)F)S(=O)(=O)NC1=NN2C(=NC=C(C2=N1)OC)OC)F | C16H14F5N5O5S
